US08383631B2
1-(4-(4-t-butylphenyl)piperazin-1-yl)-3-chloropropan-1-one
A target compound (1.59 g, 5.148 mmol, 76.4%) was yielded as liquid in the same manner as Reference Example 13 by reacting 1-(4-t-butylphenyl)piperazine (1.47 g, 6.732 mmol) with 3-chloropropionyl chloride (647.5 mg, 6.732 mmol) and purifying by separation through column chromatography (EtOAc:hexane:CH2Cl2, 1:1:5).

reactant | 1-(4-t-butylphenyl)piperazine | 6.732 mmol, 1.47 g | C(C)(C)(C)C1=CC=C(C=C1)N1CCNCC1 | C14H22N2
reactant | 3-chloropropionyl chloride | 6.732 mmol, 647.5 mg | ClCCC(=O)Cl | C3H4Cl2O
product | 1-(4-(4-t-butylphenyl)piperazin-1-yl)-3-chloropropan-1-one | C(C)(C)(C)C1=CC=C(C=C1)N1CCN(CC1)C(CCCl)=O | C17H25ClN2O
